US05649537
A) (3β,5β,7α,12α)-3-(1-oxopent-4-enyl)amino-7,12-dihydroxy-cholan-24-oic acid methyl ester
A solution of 4-pentenoic acid (marketed product) and triethylamine in THF was added drop by drop, under nitrogen and at 5° C., to isobutyl chloroformate and subsequently with a solution of (3β,5β,7α,12α)-3-amino-7,12-dihydroxy-cholan-24-oic acid methyl ester (prepared according to the procedure described in EXAMPLE 5) in THF. When the reaction was over, solvent was evaporated and the residue was taken up with H2O and AcOEt. The organic phase was separated, washed with H2O, dried over Na2SO4 and evaporated under reduced pressure. The residue was purified by flash chromatography to obtain the desired product.

reactant | 4-pentenoic acid | C(CCC=C)(=O)O | C5H8O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (3β,5β,7α,12α)-3-amino-7,12-dihydroxy-cholan-24-oic acid methyl ester | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)N)O)=O | C25H43NO4
solvent | THF | C1CCOC1 | C4H8O
product | (3β,5β,7α,12α)-3-(1-oxopent-4-enyl)amino-7,12-dihydroxy-cholan-24-oic acid methyl ester | COC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C[C@@H]4C[C@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)NC(CCC=C)=O)O)=O | C30H49NO5
